US04370340
To a solution of methyl 2-oxo-5-chloro-3-benzothiazolineacetate (10 g) in dioxane (100 ml) was added dropwise bromine (2 ml) with stirring at 25°-30° C. during 40 minutes. After the stirring was continued at ambient temperature for 4 hours, precipitates in the resultant mixture were separated by filtration, washed with dioxane and diethylether and dried to give crystalline methyl 2-oxo-5-chloro-6-bromo-3-benzothiazolineacetate (8.38 g).

reactant | methyl 2-oxo-5-chloro-3-benzothiazolineacetate | 10 g | O=C1SC2=C(N1CC(=O)OC)C=C(C=C2)Cl | C10H8ClNO3S
reactant | bromine | 2 ml | BrBr | Br2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | methyl 2-oxo-5-chloro-6-bromo-3-benzothiazolineacetate | 8.38 g | O=C1SC2=C(N1CC(=O)OC)C=C(C(=C2)Br)Cl | C10H7BrClNO3S
